US07700638B2
1-(4-Morpholinyl)-3-(3-phenyl-6-trifluoromethyl-3H-benzimidazol-4-yl)Prop-2-en-1-one
This was prepared from 3-(3-phenyl-trifluoromethyl-3H-benzimidazol-4-yl)acrylic acid methyl ester in a similar manner to 1-(4-methylpiperazin-1-yl)-3-(3-phenyl-6-trifluoromethyl-3H-benzimidazol-4-yl)prop-2-en-1-one to afford the title compound as a white solid (350 mg, 60%), m/z 402.2 (M+H)+.

reactant | 3-(3-phenyl-trifluoromethyl-3H-benzimidazol-4-yl)acrylic acid methyl ester | COC(C=CC1=CC=CC=2N=C(N(C21)C2=CC=CC=C2)C(F)(F)F)=O | C18H13F3N2O2
reactant | 1-(4-methylpiperazin-1-yl)-3-(3-phenyl-6-trifluoromethyl-3H-benzimidazol-4-yl)prop-2-en-1-one | CN1CCN(CC1)C(C=CC1=CC(=CC=2N=CN(C21)C2=CC=CC=C2)C(F)(F)F)=O | C22H21F3N4O
product | 1-(4-Morpholinyl)-3-(3-phenyl-6-trifluoromethyl-3H-benzimidazol-4-yl)Prop-2-en-1-one | 350 mg, 60% | N1(CCOCC1)C(C=CC1=CC(=CC=2N=CN(C21)C2=CC=CC=C2)C(F)(F)F)=O | C21H18F3N3O2
